US04304930
To a solution of 200 g. of m-phenoxy-benzyl alcohol in 1 liter of dry chloroform 2 ml. of pyridine are added and a solution of 142.8 g. thionyl-chloride in 150 ml. of chloroform is added dropwise under cooling with ice water. When the addition is completed the cooling is terminated and the solution is allowed to warm up to room temperature under stirring and the temperature is maintained under stirring until the vigorous gas evolution ceases. The mixture is then boiling under stirring until the gas evolution ceases completely. The solution is then poured into 2 liters of cold water, the chloroform layer is separated and the aqueous layer is shaken out in 400 ml. of chloroform. The combined chloroform solutions are washed once with water and dried above sodium sulphate. The drying agent is filtered off and chloroform is distilled off; thus 210 g. (96%) of m-phenoxy-benzyl chloride are obtained, which can be distilled at 128° to 130° C. at a pressure of 0.3 mmHg. Substantially no forerun and residue are obtained.

reactant | m-phenoxy-benzyl alcohol | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | thionyl-chloride | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 1 liter | C(Cl)(Cl)Cl | CHCl3
product | m-phenoxy-benzyl chloride | 96% | O(C1=CC=CC=C1)C=1C=C(CCl)C=CC1 | C13H11ClO
